US08877801B2
To a microwave vial, 3-(4-bromophenoxy)-2-(4-hydroxyphenyl)benzo[b]thiophen-6-ol (50 mg, 0.121 mmol) was dissolved in DMF (2 ml) and triethyl amine (0.506 ml, 3.63 mmol). To the solution was added the 4-vinyl-1-methyl imidazole (39.2 mg, 0.363 mmol) and Pd(PPh3)2Cl2 (8.49 mg, 0.012 mmol). The system was flushed with nitrogen and heated at 150° C. for 1 h under microwave radiation. The mixture was cooled to room temperature and diluted with DCM and sat. NH4Cl. The organic layer was collected (phase separator) and purified by reverse phase HPLC (acidic condition, 0.1% TFA in 1-100% CH3CN/H2O) to afford (E)-2-(4-hydroxyphenyl)-3-(4-(2-(1-methyl-1H-imidazol-4-yl)vinyl)phenoxy)benzo[b]thiophen-6-ol (31 mg, 0.070 mmol, 58.2% yield) as a white solid. 1H NMR (400 MHz, CD3OD) δ ppm=3.82 (s, 3H) 6.57-6.74 (m, 3H) 6.75-6.93 (m, 3H) 6.98-7.14 (m, 3H) 7.32-7.54 (m, 5H) 8.73 (s, 1H). LC/MS (m/z, MH+): 441.3.

reactant | 3-(4-bromophenoxy)-2-(4-hydroxyphenyl)benzo[b]thiophen-6-ol | 0.121 mmol, 50 mg | BrC1=CC=C(OC=2C3=C(SC2C2=CC=C(C=C2)O)C=C(C=C3)O)C=C1 | C20H13BrO3S
reactant | triethyl amine | 3.63 mmol, 0.506 ml | C(C)N(CC)CC | C6H15N
reactant | 4-vinyl-1-methyl imidazole | 0.363 mmol, 39.2 mg | C(=C)C=1N=CN(C1)C | C6H8N2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.012 mmol, 8.49 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (E)-2-(4-hydroxyphenyl)-3-(4-(2-(1-methyl-1H-imidazol-4-yl)vinyl)phenoxy)benzo[b]thiophen-6-ol | 0.070 mmol, 31 mg, 58.2% yield | OC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)OC2=CC=C(C=C2)\C=C\C=2N=CN(C2)C | C26H20N2O3S
